US05925633
(3RS, 5SR)-3-azidomethyl-4-oxa-1-azabicyclo [3,2,0] heptan-7-one (150 mg, 0.89 mmol) was hydrogenated with 100 mg of 10% palladium on activated carbon in 25 ml of ethyl acetate at 50 psi hydrogen pressure at room temperature for 1 hr. After removal of catalyst by filtration, (3RS, 5SR)-3-aminomethyl-4-oxa-1-azabicyclo [3,2,0] heptan-7-one in ethyl acetate was obtained.

reactant | (3RS, 5SR)-3-azidomethyl-4-oxa-1-azabicyclo [3,2,0] heptan-7-one | 0.89 mmol, 150 mg | N(=[N+]=[N-])CC1CN2C(CC2O1)=O | C6H8N4O2
reactant | hydrogen | [H][H] | H2
catalyst | palladium on activated carbon | 100 mg | [Pd] | Pd
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
product | (3RS, 5SR)-3-aminomethyl-4-oxa-1-azabicyclo [3,2,0] heptan-7-one | NCC1CN2C(CC2O1)=O | C6H10N2O2
